Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine / latex
 
Attending: ___.
 
Chief Complaint:
Influenza-like illness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with DM2, HTN, CAD, ESRD (___), 
and PAD with multiple recent hospital admissions for hypotensive 
episodes, NSTEMI and pneumonia, who presents with fevers, 
chills, cough, and weakness.

One week prior to this admission, patient reports he developed a 
cough that became productive. He also endorses fevers at home, 
runny nose, and sore throat. He denies chest pain or dyspnea.

On the day of admission, patient he experienced hemoptysis and 
developed extreme weakness, so he called EMS. He does not have 
any sick contacts but does attend dialysis.
 
Past Medical History:
- ESRD TTS recently started ___
- DMII complicated by severe nonproliferative diabetic 
retinopathy and chronic left heel ulcer
- Hypertension
- Hyperlipidemia
- Peripheral Vascular Disease s/p RLE angiogram with SFA stent 
by Dr. ___ in ___, left femoral to posterior tibial artery 
bypass with vein graft by Dr. ___ in ___ with balloon 
angioplasty of vein graft stenosis in ___
- Chronic left heel ulceration complicated by wet gangrene in 
___ requiring multiple debridements
- Chronic non-healing right heel s/p debridement of right heel 
ulcer and removal of foreign body by Podiatry in ___
- Psoriatic Arthritis
- Osteoarthritis
 
Social History:
___
Family History:
Mother with diabetes, asthma, and hypertension. Father with 
prostate cancer. Grandmother with ovarian cancer.
 
Physical Exam:
Admission Physical Exam
VITALS: 
___ 1837 Temp: 100.9 Axillary BP: 220/110 R Lying HR: 102 
RR: 18 O2 sat: 99% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain 
Score: ___ 
GENERAL: Laying in bed, comfortable, pleasant
HEENT: NC/AT, PERRLA, EOMI, OP clear, MMM
NECK: supple, no LAD, JVP not appreciated
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: normal respiratory effort, auscultation notable for
diffuse in- and expiratory rhonchi and wheezing bilaterally up 
to
apices, no crackles appreciated
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Warm. No clubbing, cyanosis, or edema. 
SKIN: No rashes or lesions
NEUROLOGIC: AAOx3. Speech normal. CN2-12 intact. ___ strength
throughout. Normal sensation. 

Discharge Physical Exam
___ 0608 Temp: 98.2 PO BP: 171/82 R Lying HR: 78 RR: 18 O2
sat: 99% O2 delivery: RA FSBG: 82 
GENERAL: Lying in bed comfortably, alert and interactive
HEENT: NC/AT, EOMI, MMM, subclavian vein tunneled line on right.
CARDIAC: RRR. Audible S1 and S2. ___ holosystolic murmur most
prominent in the upper sternal borders. No rubs or gallops.
LUNGS: CTA b/l, no wheezes/crackles.
EXTREMITIES: Lower legs cool bilaterally. Pain with palpation on
lower extremities bilaterally. No clubbing, cyanosis, or edema.
Left lateral heel ulcer with some abrasion. L forearm AV graft
without erythema.
NEUROLOGIC: AOx3. Speech normal. CN2-12 intact grossly
 
Pertinent Results:
Admission Labs
___ 01:30PM BLOOD WBC-7.8 RBC-4.60 Hgb-11.3* Hct-37.6* 
MCV-82 MCH-24.6* MCHC-30.1* RDW-16.0* RDWSD-47.8* Plt ___
___ 01:30PM BLOOD Neuts-66.5 ___ Monos-9.3 Eos-2.0 
Baso-0.4 Im ___ AbsNeut-5.21 AbsLymp-1.68 AbsMono-0.73 
AbsEos-0.16 AbsBaso-0.03
___ 01:30PM BLOOD Glucose-214* UreaN-36* Creat-6.9* Na-137 
K-4.0 Cl-99 HCO3-20* AnGap-18
___ 01:30PM BLOOD Calcium-8.0* Phos-4.9* Mg-1.7
___ 06:55AM BLOOD calTIBC-199* Ferritn-546* TRF-153*
___ 01:40PM BLOOD Lactate-1.1
___ Flu B PCR: positive

Pertinent Labs/Studies
___ 06:16AM BLOOD Albumin-3.1* Calcium-8.0* Phos-4.0 Mg-2.1

___   MRSA SCREEN:    No MRSA isolated.
___ URINE Streptococcus pneumoniae Antigen Detection-Test: 
negative  
___ SPUTUM    

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

___ Chest AP
FINDINGS:  
Again demonstrated is a right chest wall catheter with its 
terminal tip in the  right atrium.  Compared to most recent 
radiograph there is now patchy 
consolidation overlying the mid to low left lung and right lung 
base, 
suspicious for multifocal pneumonia.  There is no evidence of 
effusion or 
pneumothorax.  The cardiomediastinal silhouette is unremarkable. 

  
IMPRESSION:  
Patchy opacification of the right lung base and mid to low left 
lung, 
concerning for multifocal pneumonia. 

Discharge Labs

Discharge Labs
___ 06:16AM BLOOD WBC-9.0 RBC-4.10* Hgb-10.1* Hct-33.2* 
MCV-81* MCH-24.6* MCHC-30.4* RDW-16.3* RDWSD-47.5* Plt ___
___ 06:16AM BLOOD Glucose-145* UreaN-47* Creat-7.9*# 
Na-133* K-5.2 Cl-92* HCO3-19* AnGap-22*
___ 06:16AM BLOOD Calcium-8.2* Phos-5.4* Mg-1.8
 
Brief Hospital Course:
SUMMARY STATEMENT
Mr. ___ is a ___ year-old-male with DM2, HTN, ESRD on HD, 
CAD, and PVD with multiple recent hospital admissions who 
presents with fevers, cough, and hemoptysis diagnosed with 
influenza and pneumonia. 

ACTIVE ISSUES
-------------
# Fever
# Multifocal pneumonia: Patient presented with fevers, cough, 
hemoptysis and weakness.  Testing revealed that he was flu 
positive, CXR demonstrating multifocal pneumonia concerning for 
bacterial superinfection. Given multiple recent hospital 
admissions and history of pseudomonas on ___, broad 
coverage was initiated. Patient was treated with vancomycin, 
cefepime, and levofloxacin (treated with one dose of 
azithromycin) for empiric MRSA and double pseudomonas coverage. 
This was narrowed to levofloxacin after MRSA swab negative and 
sputum culture showed commensal respiratory organisms for a 
total of 7 days. Symptoms managed with albuterol PRN, tessalon 
perls, ipratropium inhalers, NaCl nasal spray for dry nostrils, 
and Afrin for nose bleeds. Blood culture and urine culture were 
negative.

# Influenza B: Tested positive. He was treated with oseltamivir 
30 mg after every HD session for 5 days (___).

# Hypertension: His blood pressure was elevated to SBP 200s in 
the ED, during which he felt asymptomatic. During prior 
hospitalizations, he has had many SBPs in 180s-190s and has a 
history of difficult to control hypertension. Of note, there is 
prior documentation that he is non-compliant with his 
medications but also a recent hospitalization for hypotension in 
___. Patient was continued on home carvedilol, imdur, 
clonidine, nifedipine, and doxazosin. Hydralazine was 
discontinued and lisinopril 20 mg PO QD (per renal) was added. 
While inpatient, the patient's blood pressure ranged 110s/60s to 
200s/90s while inpatient, but seemed to be better controlled on 
this new regimen. 

# DM2: Patient was treated with 12u lantus QPM and sliding 
scale.

# Neuropathy: Patient reported feelings of cold feet since 
initiation of dialysis in ___. He was currently on 
gabapentin 100 mg, but this may have been washed out in HD so 
dose was changed to ___ dosing after HD.

# ESRD on HD
He is on HD ___ via LUE AVG, which was placed on ___. LUE 
AVG was used at HD successfully for 3 HD sessions here. 
Transplant and renal team approved LUE AVG as main HD access 
with approval of removal of tunneled R IJ line.  His line was 
not able to be removed on this hospitalization.  During his 
hospital admission, he was on a renal diet, fluid restrictions, 
nephrocaps, and home vitamin D.

CHRONIC ISSUES
===============
# Anemia: His Hgb on admission was 11.3 which is at baseline. We 
recommend treatment with IV iron per above as outpatient. 

# CAD: He was diagnosed with NSTEMI in ___, at which time 
catherization showed 2v disease that was non-intervenable. 
During his hospital admission, he was continued on ASA, Plavix, 
atorvastatin, antihypertensives per above.

# PVD: He was continued on ASA and Plavix.

# Other home medications: 
He was continued on Acetaminophen 325-650 mg PO Q6H:PRN, 
OxyCODONE 5 mg PO Q4H:PRN, and Docusate Sodium 100 mg PO BID 

TRANSITIONAL ISSUES
======================
[]Pneumonia:  Last day of levofloxacin: ___.
[]Neuropathy:  If gabapentin not effective, could consider a 
trial of amitriptyline
[]Question of Restless Leg Syndrome:  Pt's "cold legs" could 
possibly be manifestations of Restless leg, although we felt 
less likely.  If neuropathic treatment not effective, consider 
iron deficiency work-up and repletion as this may help his 
symptoms"
[] Blood pressure: follow up blood pressure and adjust 
medications as needed.
[] R IJ line:  We attempted to remove on day of discharge, but 
unable to given scheduling limitations.  Per renal, ok to 
discontinue tunneled R IJ line as AVG well functioning. 
Interventional radiology should schedule follow up. If no 
follow-up arranged within 5 days, please call @ ___
[] Discharge insulin: 12 u bedtime glargine. Increase glargine 
as needed.
[ ]Hypertension: Given patient HD, renal suggested starting 
lisinopril for blood pressure control.  Recommend attempt to 
simplify blood pressure regimen to once or twice daily 
medications.  Hydralazine discontinued. Could consider clonidine 
patch for simplified therapy.  Would increase nifedipine if 
needed instead of adding additional agents.
#CODE: Full (presumed) 
#CONTACT: ___ (separated wife) ___ 

Anticipated rehab stay <30 days
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 50 mg PO BID 
5. CloNIDine 0.3 mg PO BID 
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Doxazosin 6 mg PO 3X/WEEK (___) 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Gabapentin 100 mg PO DAILY 
11. HydrALAZINE 50 mg PO BID 
12. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
13. Nephrocaps 1 CAP PO DAILY 
14. NIFEdipine (Extended Release) 30 mg PO DAILY 
15. Vitamin D ___ UNIT PO DAILY 
16. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
17. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
18. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
The Preadmission Medication list is accurate and complete.

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough  
2.  Dextromethorphan-Guaifenesin (Sugar Free) 5 mL PO Q6H:PRN 
cough  
3.  Levofloxacin 250 mg PO Q24H  
4.  Lisinopril 20 mg PO DAILY  
5.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
6.  Doxazosin 6 mg PO 4X/WEEK (___)  
7.  Gabapentin 100 mg PO QPM  
8.  Glargine 12 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin 
9.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
10.  Aspirin 81 mg PO DAILY  
11.  Atorvastatin 80 mg PO QPM  
12.  Carvedilol 50 mg PO BID  
13.  CloNIDine 0.3 mg PO BID  
14.  Clopidogrel 75 mg PO DAILY  
15.  Docusate Sodium 100 mg PO BID  
16.  Ferrous Sulfate 325 mg PO DAILY  
17.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
18.  Nephrocaps 1 CAP PO DAILY  
19.  NIFEdipine (Extended Release) 30 mg PO DAILY  
20.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
21.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
- Influenza
- Pneumonia

Secondary diagnosis
- ESRD TTS recently started ___
- DMII complicated by diabetic retinopathy and chronic left heel 
ulceration
- Hypertension
- Hyperlipidemia
- Peripheral Vascular Disease s/p RLE SFA stent ___, left 
femoral bypass vein graft in ___, angioplasty of vein graft 
stenosis in ___
- Psoriatic Arthritis
- Osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___, 

WHY WERE YOU ADMITTED?
- You had the flu and were coughing up blood and had a fever.
- Imaging of your lungs showed you had pneumonia

WHAT WAS DONE FOR YOU WHILE YOU WERE HERE?
- You were given antibiotics and influenza medication

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
- Follow up with your appointments outlined below.

 It was a pleasure taking care of you, and we wish you well!

Sincerely,
 Your ___ team

 
Followup Instructions:
___